US09402841B2
Step D: (S,E)-5-(1-((1-(4-(dimethylamino)but-2-enoyl)pyrrolidin-3-yl)oxy)isoquinolin-3-yl)-2,4-dihydro-3H-1,2,4-triazol-3-one
To a mixture of (E)-4-(dimethylamino)but-2-enoic acid hydrochloride (23.40 mg, 0.141 mmol), (S)-3-(1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one (100 mg, 0.135 mmol) and HATU (61.4 mg, 0.161 mmol) in DCM (3 mL) was added Hünig's Base (0.070 mL, 0.404 mmol). The reaction mixture was stirred at RT overnight and was subsequently diluted with EtOAc and washed with water. The product remained in the aqueous layer, which was concentrated to afford a residue. The crude product was purified by preparative HPLC eluting with a gradient of 25-50% ACN in water (basic mode). The solvent was removed by lyophilization to give the title compound (26 mg, 47%). 1H NMR (400 MHz, CD3OD) δ ppm 2.33-2.44 (m, 1H), 2.44-2.53 (m, 1H), 2.55 (s, 3H), 2.60 (s, 3H), 3.53 (d, J=6.06 Hz, 1H), 3.59 (d, J=6.57 Hz, 1H), 3.72-3.91 (m, 1H), 3.91-4.00 (m, 2H), 4.14-4.18 (m, 1H), 6.15 (d, J=18.44 Hz, 1H), 6.65-6.89 (m, 2H), 7.58-7.69 (m, 1H), 7.73-7.83 (m, 1H), 7.90 (d, J=3.03 Hz, 1H), 7.96 (d, J=5.31 Hz, 1H), 8.21 (d, J=7.33 Hz, 1H); ESI-MS m/z [M+H]+ 409.5.

reactant | (E)-4-(dimethylamino)but-2-enoic acid hydrochloride | 0.141 mmol, 23.40 mg | Cl.CN(C/C=C/C(=O)O)C
reactant | (S)-3-(1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 0.135 mmol, 100 mg | N1C[C@H](CC1)OC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C15H15N5O2
reactant | HATU | 0.161 mmol, 61.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hünig's Base | 0.404 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S,E)-5-(1-((1-(4-(dimethylamino)but-2-enoyl)pyrrolidin-3-yl)oxy)isoquinolin-3-yl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 26 mg, 47% | CN(C/C=C/C(=O)N1C[C@H](CC1)OC1=NC(=CC2=CC=CC=C12)C=1NC(NN1)=O)C | C21H24N6O3
